US07202364B2
A solution of 2-naphthylamine (1.43 g, 10 mmol) and triethylamine (1.11 g, 11 mmol) in 10 mL of CH2Cl2 is cooled to 0° C. under an atmosphere of nitrogen. To this solution is added dropwise a solution of acetyl chloride (0.86 g, 11 mmol) in 10 mL of CH2Cl2. The mixture is allowed to warm to room temperature and stirred overnight. The mixture is concentrated in vacuo and then 1 N HCl is added to the residue to bring the mixture to pH 4. The mixture is extracted 3 times with 20 mL of EtOAc and the combined organic layers are washed with 20 mL each of H2O, saturated aqueous NaHCO3 and saturated brine. The organic layer is dried over MgSO4, filtered and the solvents are removed in vacuo to give 2-acetylaminonaphthalene as a solid which is used without further purification. A solution of NaClO3 in (0.33 g, 30 mmol) in 0.77 mL of H2O is added dropwise to a mixture of 1.0 g of 2-acetylaminonaphthalene in 5 mL of concentrated HCl and 6 mL of HOAc at 0° C. The mixture is allowed to warm to room temperature and stirred overnight under an atmosphere of nitrogen. The mixture is poured over 20 g of ice and is extracted three times with 20 mL of CH2Cl2. The combined organic layers are washed with 20 mL each of water, saturated aqueous sodium bicarbonate and saturated brine, and dried over magnesium sulfate. The mixture is filtered and the solvents are removed in vacuo to give an oil which is purified by flash chromatography on silica gel (CH2Cl2) to give 1-chloro 2-acetylaminonaphthalene as a solid. A mixture of 0.17 g (0.77 mmol) of 1-chloro 2-acetylaminonaphthalene in 3.9 mL of 6 N HCl is heated to 85° C. and is stirred for 8 hours. The mixture is cooled to 0° C. and solid Na2CO3 is carefully added to bring the mixture to pH 8. The mixture is extracted 3 times with 20 mL of CH2Cl2. The combined organic layers are washed with 15 mL of saturated brine, dried over Na2SO4 and the solvents are removed in vacuo to give 1-chloro 2-aminonaphthalene as a solid.

reactant | 1-chloro 2-acetylaminonaphthalene | 0.77 mmol, 0.17 g | ClC1=C(C=CC2=CC=CC=C12)NC(C)=O | C12H10ClNO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HCl | 6 N, 3.9 mL | Cl | ClH
product | 1-chloro 2-aminonaphthalene | ClC1=C(C=CC2=CC=CC=C12)N | C10H8ClN
